US04267359
To a mixture of 2-isopropyl-4-phenyl-3-butenoic acid (0.22 g, 1.07 mmol), 2 ml DMF, 3 ml THF and potassium carbonate (0.23 g, 1.66 mmol) is added m-phenylcarbonylbenzyl bromide (0.33 g, 1.2 mmol). The reaction mixture is stirred overnight at RT and then ether/water is added. The ether phase is washed with 5% NaOH, water and brine, dried over sodium sulfate and concentrated under vacuum. The crude product is plated on silica gel plates eluting with 10% ether/hexane to yield m-phenylcarbonylbenzyl 2-isopropyl-4-phenyl-3-butenoate, MS m/e 398.3 (M+).

reactant | 2-isopropyl-4-phenyl-3-butenoic acid | 1.07 mmol, 0.22 g | C(C)(C)C(C(=O)O)C=CC1=CC=CC=C1 | C13H16O2
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 1.66 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-phenylcarbonylbenzyl bromide | 1.2 mmol, 0.33 g | C1(=CC=CC=C1)C(=O)C=1C=C(CBr)C=CC1 | C14H11BrO
solvent | ether water | CCOCC.O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | m-phenylcarbonylbenzyl 2-isopropyl-4-phenyl-3-butenoate | C(C)(C)C(C(=O)OCC1=CC(=CC=C1)C(=O)C1=CC=CC=C1)C=CC1=CC=CC=C1 | C27H26O3
